US07326715B2
4-Hydroxy-6-(3-trifluoromethylphenyl)-pyrimidine-2-carboxylic acid methyl ester (17 mg) was stirred for one hour at room temperature in aqueous ammonia (500 ul). Solvent was evaporated under reduced pressure to yield product 4-hydroxy-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid amide (17 mg) as a white solid. 1H NMR (DMSO): δ 8.66 (s, 1H), 8.61 (s, 1H), 8.54 (d, 1H), 8.13 (s, 1H), 7.87 (d, 1H), 7.73 (t, 1H), 7.22 (s, 1H).

reactant | 4-Hydroxy-6-(3-trifluoromethylphenyl)-pyrimidine-2-carboxylic acid methyl ester | 17 mg | COC(=O)C1=NC(=CC(=N1)O)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2O3
reactant | ammonia | 500 ul | N | H3N
product | 4-hydroxy-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carboxylic acid amide | 17 mg | OC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)N | C12H8F3N3O2
